US07645886B2
Preparation of 2-(1-Benzyl-5-iodo-1H-indol-3-yl)-N,N-dimethyl-acetamide
To a solution of 2-(5-iodo-1H-indol-3-yl)-N,N-dimethyl-acetamide (24.7 g, 75.4 mmol) in DMF (90 mL), under an inert atmosphere sodium hydride (1.91 g 95%, 75.4 mmol) is added which leads to the formation of a pale yellow solution. When the evolution of hydrogen has ceased, benzyl chloride (9.54 g, 75.4 mmol) is added in three portions over a period of 10 minutes. The mixture warms to 60° C., and after stirring for one hour a suspension forms. On the rotavapor, a part of the DMF (about 80 mL) is removed, which leads to crystallization of the product Water (300 mL) is added, and the crystallized product is triturated at 80° C. for one hour on the rotavapor. The product is filtered off, washed twice with water (200 mL each washing), and dried to give 26.8 g (85%) of the title compound as pale yellow crystals, mp=167-168° C. From the mother liquor, another crop (2.6 g, 8%) is obtained which is also pure. 1H-NMR (DMSO-D6, 300 MHz) δ 3.33, 3.72 (2 s, 3H each, N(CH3)2); 3.72 (s, 2H, CH2CO); 5.34 (CH2Ph); 7.08-7.15, 7.15-7.30 (2 m, 5H, Ph); 7.24 (d, 3J=8.7 Hz, H-7); 7.26 (s, 1H, H-2); 7.32 (dd, 4J=1.3 Hz, H-6); 7.94 (d, 1H, H-4). 13C-NMR (DMSO-D6, 75 MHz) δ 30.90 (CH2CO); 35.72, 37.89 (N(CH3)2); 49.70 (CH2Ph); 83.31 (C-5); 108.61 (C-3); 113.26 (C-2); 127.65 (2 Ph-C); 128.06 (C-6 or Ph C-4); 128.53 (C-4); 129.19 (Ph C-4 or C-6); 129.22 (2 Ph-C); 129.83 (C-7); 131.38 (Ph ipso-C); 135.79 (C-9); 138.67 (C-8); 170.82 (CONMe2).

reactant | 2-(5-iodo-1H-indol-3-yl)-N,N-dimethyl-acetamide | 75.4 mmol, 24.7 g | IC=1C=C2C(=CNC2=CC1)CC(=O)N(C)C | C12H13IN2O
reactant | sodium hydride | 75.4 mmol, 1.91 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | benzyl chloride | 75.4 mmol, 9.54 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
product | 2-(1-Benzyl-5-iodo-1H-indol-3-yl)-N,N-dimethyl-acetamide | 26.8 g, 85% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)I)CC(=O)N(C)C | C19H19IN2O
